US04866077
2-Ethyl-5-(1-methyl-1,2,5,6-tetrahydro-3-pyridyl)-2H-tetrazole;
2-Allenyl-5-(1,2,5,6-tetrahydro-3-pyridyl)-2H-tetrazole; 2-Methyl-4-(1-methyl-1,2,5,6-tetrahydro-3-pyridyl)-1,2,3-triazole;

reactant | 2-Allenyl-5-(1,2,5,6-tetrahydro-3-pyridyl)-2H-tetrazole | C(=C=C)N1N=C(N=N1)C=1CNCCC1 | C9H11N5
reactant | 2-Methyl-4-(1-methyl-1,2,5,6-tetrahydro-3-pyridyl)-1,2,3-triazole | CN1N=CC(=N1)C=1CN(CCC1)C | C9H14N4
product | 2-Ethyl-5-(1-methyl-1,2,5,6-tetrahydro-3-pyridyl)-2H-tetrazole | C(C)N1N=C(N=N1)C=1CN(CCC1)C | C9H15N5
